US07528160B2
4-(3-Methoxy-phenylsulfanyl)-3-oxo-butyric acid ethyl ester
Ethyl 4-chloroacetoacetate (32.6 g, 0.188 mol), 3-methoxythiophenol (25.1 g, 0.179 mol) and DMF (700 mL) are combined and degassed by bubbling nitrogen through the stirred mixture for about 10 min, then potassium carbonate (50 g, 0.36 mol) is added to the stirred mixture in one batch. This mixture is stirred under nitrogen at room temperature for 2 h, the mixture is filtered to remove potassium carbonate, then diluted with ethyl acetate. The resulting solution is washed with water, then 5% aq. NaCl. The combined organics are washed with brine, dried over Na2SO4. Concentration yields the title compound as yellow liquid. This material is used without purification.

reactant | Ethyl 4-chloroacetoacetate | 0.188 mol, 32.6 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | 3-methoxythiophenol | 0.179 mol, 25.1 g | COC=1C=C(C=CC1)S | C7H8OS
reactant | potassium carbonate | 0.36 mol, 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | 4-(3-Methoxy-phenylsulfanyl)-3-oxo-butyric acid ethyl ester | C(C)OC(CC(CSC1=CC(=CC=C1)OC)=O)=O | C13H16O4S
